* E:\GitHub\Tremolo\SPICE\Tremolo_Analog.asc
V1 N007 0 SINE(0 0.2 1k 0 0) AC 0.1
V2 9V 0 9
V3 5V 0 5 Rser=30
XU1 N008 N005 9V 0 N005 AD795
R1 9V Vref 10k
R2 Vref 0 10k
R3 N008 Vref 1Meg
C1 N008 N007 100n
XU2 Vref N009 9V 0 N010 AD795
R4 N010 N009 10k
R5 N009 N011 10k
C2 N011 N005 6.3n
XU3 Vref N001 9V 0 N002 AD795
R6 N002 N001 10k
R7 N001 N005 10k
C3 N002 N001 10n
XU4 Vref N003 9V 0 N004 AD795
R8 N004 N003 10k
R10 N003 N002 10k
R11 N003 N010 10k
C4 N006 N004 100n
R9 0 N006 1Meg
* 3.3n + 10k + 10k trimpot = 2.4k - 3.2k - 4.8k cutoff
* R4 may need to be 20k
.ac dec 100 20 20k
.lib ADI.lib
.backanno
.end
